US09359371B2
In THF (10 mL) were dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methyl sulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (152 mg, 0.34 mmol) and 2-methyl-2,7-diazaspiro[3.5]nonane (70 mg, 0.50 mmol). Then triethylamine (68 mg, 0.67 mmol) was added dropwisely. The reaction was conducted at ambient temperature for 4 h. The solvent was removed by rotary evaporation, followed by addition of water and extraction with DCM. The organic phase was dried over sodium sulfate and purified by silica gel column chromatography (DCM/methanol=20/1) to give 4-((3-chloro-4-methoxybenzyl)amino)-2-(7-methyl-2,7-diazaspiro[3.5]nonan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide as a white solid (16 mg, 9% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methyl sulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 0.34 mmol, 152 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H19ClN6O3S
reactant | 2-methyl-2,7-diazaspiro[3.5]nonane | 0.50 mmol, 70 mg | CN1CC2(C1)CCNCC2 | C8H16N2
reactant | triethylamine | 0.67 mmol, 68 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(7-methyl-2,7-diazaspiro[3.5]nonan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 16 mg, 9% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)N2CC3(C2)CCN(CC3)C)C=CC1OC | C26H31ClN8O2
